US06451845B1
[2-(4-Bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 2 using 3-cyclopentyl-p-anisic acid (3.50 g, 15.9 mmol, RN-59216-82-9), oxalyl chloride (1.52 mL, 17.5 mmol), N,N-dimethylformamide (2 drops) tin(IV) chloride (2.04 mL, 17.5 mmol) and 2-(4-bromobenzyl)4,5-dimethylthiophene (4.46 g, 15.9 mmol). Purification on silica gel eluting 5% EtOAc/pet. ether gave 4.05 g (53%) of the title compound as yellow oil. (DMSO-d6) δ 1.43-1.47 (m, 2H), 1.61-1.75 (m, 4H), 1.81 (s, 3H), 1.91-1.99 (m, 2H), 2.28 (s, 3H), 3.24 (quintet, 1H), 3.84 (s, 2H), 3.88 (s, 3H), 7.02 (d, 2H), 7.06 (d, 1H), 7.40 (d, 2H), 7.52 (dd, 1H), 7.57 (d, 1H).

reactant | 3-cyclopentyl-p-anisic acid | 15.9 mmol, 3.50 g | C1(CCCC1)C=1C=C(C(=O)O)C=CC1OC | C13H16O3
reactant | oxalyl chloride | 17.5 mmol, 1.52 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-bromobenzyl)4,5-dimethylthiophene | 15.9 mmol, 4.46 g | BrC1=CC=C(CC=2SC(=C(C2)C)C)C=C1 | C13H13BrS
catalyst | N,N-dimethylformamide | 17.5 mmol, 2 drops | CN(C=O)C | C3H7NO
product | [2-(4-Bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 4.05 g, 53% | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(C=C2)OC)C2CCCC2)C)C)C=C1 | C26H27BrO2S
